US07652009B2
Step 1: Preparation of 3-(3-Fluoro-4-methoxy-phenyl)-6-phenoxy-pyridazine
A mixture of 3-chloro-6-(3-fluoro-4-methoxy-phenyl)-pyridazine (1.0 g, 4019 mmol), phenol (0.26 g, 5.03 mmol) and Cs2CO3 (1.64 g, 5.03 mmol) in 15 mL of DMF (in microwave tube) was heated in a microwave (Personal Chemistry, Emrys Optimizer) at 150° C. for 15 min. The mixture was cooled to RT and diluted with 60 mL of EtOAc. The solution was washed with 20 mL of satd. NaHCO3 followed by 20 mL of brine, dried over Na2SO4 and concentrated in vacuo. The solid was washed with 50% EtOAc/hexanes to provide the title compound as an off-white solid. MS (ESI pos. ion) m/z: 297.3 (M+H). Calc'd Exact Mass for C17H13FN2O2: 296.30.

reactant | 3-chloro-6-(3-fluoro-4-methoxy-phenyl)-pyridazine | 4019 mmol, 1.0 g | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OC)F | C11H8ClFN2O
reactant | phenol | 5.03 mmol, 0.26 g | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 5.03 mmol, 1.64 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 3-(3-Fluoro-4-methoxy-phenyl)-6-phenoxy-pyridazine | FC=1C=C(C=CC1OC)C=1N=NC(=CC1)OC1=CC=CC=C1 | C17H13FN2O2
